US04788306
2-[6-(4-Chlorophenoxy)-1-fluorohexyl]-2-oxiranecarboxylic acid sodium salt (isomer A)
To a suspension of 1.79 g (5.41 mmol) of 2-[6-(4-chlorophenoxy)-1-fluorohexyl]-2-oxiranecarboxylic acid methyl ester (isomer A) of Example 3 in 5.14 ml of absolute ethanol is added at room temperature 5.14 ml (5.14 mmol) of 1N aqueous sodium hydroxide. After 30 minutes, 4.0 ml of tetrahydrofuran is aded to achieve total dissolution and stirring is maintained for 1.25 hours. Evaporation of the solvents and trituration with pentane and isopropyl ether gives 1.46 g (79.7%) of the title compound: m.p. 112°-125° C.; IR (KBr) 1640, 1608 cm-1 ; NMR (d6 -DMSO) δ 1.47 (4H, m), 1.74 (4H, m), 2.63 (1H, dd, J=8, 3 Hz), 2.73 (1H, d, J=8 Hz), 3.98 (2H, t, J=9 Hz), 5.19 (1H, ddd, J=48, 10, 2 Hz), 6.98 (2H, d, J=8 Hz).

reactant | 2-[6-(4-chlorophenoxy)-1-fluorohexyl]-2-oxiranecarboxylic acid methyl ester | 5.41 mmol, 1.79 g | COC(=O)C1(OC1)C(CCCCCOC1=CC=C(C=C1)Cl)F | C16H20ClFO4
reactant | sodium hydroxide | 5.14 mmol, 1N, 5.14 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 4.0 ml | O1CCCC1 | C4H8O
solvent | ethanol | 5.14 ml | C(C)O | C2H6O
product | 2-[6-(4-Chlorophenoxy)-1-fluorohexyl]-2-oxiranecarboxylic acid sodium salt | 1.46 g, 79.7% | [Na+].ClC1=CC=C(OCCCCCC(F)C2(OC2)C(=O)[O-])C=C1 | InChI=1S/C15H18ClFO4.Na/c16-11-5-7-12(8-6-11)20-9-3-1-2-4-13(17)15(10-21-15)14(18)19;/h5-8,13H,1-4,9-10H2,(H,18,19);/q;+1/p-1
